US07026339B2
A mixture of 2-vinylphenyl 4-(trifluoromethyl)benzenesulfonate (1.8 g, 5.5 mmol) and ethyl diazoacetate (0.70 mL, 6.7 mmol) under argon is heated at 135° C. for 90 min. The product is purified on silica gel in methylene chloride and ethyl acetate-methylene chloride mixtures. The product, ethyl 2-[2-({[4-(trifluoromethyl)phenyl]sulfonyl}oxy)phenyl]cyclopropanecarboxylate, is obtained as a mixture of isomers. A yield of 50% is obtained.

reactant | 2-vinylphenyl 4-(trifluoromethyl)benzenesulfonate | 5.5 mmol, 1.8 g | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C=C)(F)F | C15H11F3O3S
reactant | ethyl diazoacetate | 6.7 mmol, 0.70 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
product | ethyl 2-[2-({[4-(trifluoromethyl)phenyl]sulfonyl}oxy)phenyl]cyclopropanecarboxylate | yield of 50% | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C1C(C1)C(=O)OCC)(F)F | C19H17F3O5S
